US05412134
A solution of (2S-trans)-2,3-bis[(benzyloxy)methyl]cyclobutanone (0.2 g., 0.645 mmole) in toluene (4 ml.) was added dropwise over 10 minutes to a solution of triisobutylaluminum (0.91 M in hexane, 0.9 ml., 0.816 mmole) in toluene (2 ml.) at -40° C. The mixture was stirred at -50° C. for 4 hours and at -40° C. for one hour. A solution of triisobutylaluminum (1 ml., 0.91 mmole) was added to the reaction mixture. After stirring for 30 minutes the reaction was quenched by adding 10% hydrochloric acid (2 ml.) at -40° C. The organic phase was washed with brine, dried (magnesium sulfate), and the solvent was evaporated to give [1S-(1α,2β,3β)]-3-hydroxy-1,2-cyclobutanedimethanol, dibenzyl ether; TLC (30% ethyl acetate/hexane) Rf =0.3. The product contained about 5% of the isomeric compound; TLC (30% ethyl acetate/hexane) Rf =0.2.

reactant | (2S-trans)-2,3-bis[(benzyloxy)methyl]cyclobutanone | 0.645 mmole, 0.2 g | C(C1=CC=CC=C1)OC[C@H]1C(C[C@@H]1COCC1=CC=CC=C1)=O | C20H22O3
reactant | triisobutylaluminum | 0.816 mmole, 0.91 M, 0.9 ml | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | triisobutylaluminum | 0.91 mmole, 1 ml | C(C(C)C)[Al](CC(C)C)CC(C)C
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | dibenzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
